US08426411B2
In a 1 L round-bottomed jacketed flask, copper(I) chloride (0.679 g, 6.86 mmol), (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (4.27 g, 6.86 mmol), and sodium tert-butoxide (0.6.59 g, 6.86 mmol) in toluene (250 mL) were added to give a brown solution. The mixture was stirred at ambient temperature for 15 min after which the solution became brown. The solution was cooled to about 5° C. and polymethylhydrosiloxane (18.29 mL, 274 mmol) was added and the reaction mixture was stirred at about 5° C. for about 40 min. The solution was cooled to about −15° C. and a solution of ethyl 2-ethyl-4-oxocyclopent-2-enecarboxylate (25.00 g, 137 mmol) and tert-butyl alcohol (69.9 mL, 741 mmol) in toluene (250 mL) was added in one portion and the reaction stirred at about −15° C. for about 120 h. The reaction mixture was quenched by the addition of 1:1 ethanol/toluene (350 mL) and Celite® 545 (25 g). The mixture was stirred for about 3 h and allowed to warm to ambient temperature. The reaction mixture was concd in vacuo, chasing with heptane. Heptane (350 mL) was added to the residue and solids were removed by filtration. The filtrate was concd in vacuo and the crude product was purified by silica gel chromatography using a gradient of 10 to 50% EtOAc in heptane over 7 column volumes to give ethyl 2-ethyl-4-oxocyclopentanecarboxylate as a scalemic mixture of diastereomers, predominantly (1S,2R)-ethyl 2-ethyl-4-oxocyclopentanecarboxylate (13.68 g, 54%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 4.17 (qd, J=7.1, 1.5, 2H), 3.25-3.18 (m, 1H), 2.55 (m, J=4.7, 3.5, 1.7, 1H), 2.46-2.29 (m, 3H), 2.21 (m, J=11.6, 9.8, 1.3, 1H), 1.53 (m, J=14.8, 7.4, 6.1, 1H), 1.42-1.30 (m, 1H), 1.27 (t, J=7.1, 3H), 0.98 (t, J=7.4, 3H).

reactant | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 6.86 mmol, 4.27 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | sodium tert-butoxide | 6.86 mmol | CC(C)([O-])C.[Na+]
reactant | ethyl 2-ethyl-4-oxocyclopent-2-enecarboxylate | 137 mmol, 25.00 g | C(C)C=1C(CC(C1)=O)C(=O)OCC | C10H14O3
reactant | tert-butyl alcohol | 741 mmol, 69.9 mL | C(C)(C)(C)O | C4H10O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) chloride | 6.86 mmol, 0.679 g | [Cu]Cl
product | ethyl 2-ethyl-4-oxocyclopentanecarboxylate | C(C)C1C(CC(C1)=O)C(=O)OCC | C10H16O3
